US09056874B2
a) (±)-2-(2,2,2-Trifluoro-1-hydroxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-hydroxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-hydroxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (2.2 g, 3.49 mmol) was dissolved in 1.25 M HCl in MeOH (55.8 mL, 69.8 mmol) and heated at 60° C. for 17 hours. The reaction was cooled to room temperature and the solvent was removed in vacuo. The resulting residue was diluted with MeOH and basified by adding NH4OH. The crude mixture was directly loaded onto a silica column and purified by flash chromatography (0-100% ethyl acetate in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6 with about 5 μL TFA) δ ppm 11.00 (br. s., 1H) 8.11 (s, 1H) 7.61-7.69 (m, 1H) 7.55-7.60 (m, 1H) 7.24 (t, J=2.84 Hz, 1H) 6.75 (s, 1H) 6.50 (br. s., 1H) 3.29 (s, 3H) 2.47 (d, J=0.51 Hz, 3H). HRMS calcd. for C20H16F3N4O2 (M+H)+ 401.122. found 401.1226.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-hydroxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C(F)(F)F)(O)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C31H37F3N4O5Si
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-hydroxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 3.49 mmol, 2.2 g | C(#N)C=1C=CC2=C(N(C(=N2)C(C(F)(F)F)(O)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C31H37F3N4O5Si
reactant | MeOH | 69.8 mmol, 55.8 mL | CO | CH4O
solvent | HCl | 1.25 M | Cl | ClH
product | (±)-2-(2,2,2-Trifluoro-1-hydroxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(C1=C2C=CNC2=C(C=C1OC)C)(O)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C20H15F3N4O2
